US06759408B2
To a solution of 6-bromo-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one (2 g, 7.8 mmol) in anhydrous THF (60 mL) was added a solution of n-BuLi in hexane (10 M, 2.4 mL, 24 mmol) at −78° C. under nitrogen. After stirring at −78° C. for 30 minutes, a slurry was obtained and treated with trisopropyl borate (6.5 mL, 28 mmol). The reaction medium was slowly warmed to ambient temperature and quenched with 1N aqueous hydrochloric acid solution (60 mL). Ethyl acetate (100 mL) was added and organic layer was separated, and aqueous layer was extracted with ethyl acetate (3×60 mL). The combined organic layer was washed with brine and dried with MgSO4. The solvent was removed in vacuo and the residue was purified by a silica gel flash chromatography (ethyl acetate:hexane/2:1) to afford (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid as a white solid (1.4 g, 81%): mp 249-250° C.; 1H-NMR (DMSO-d6) δ10.21 (s, 1H, D2O exchangeable), 7.90-7.95 (br s, 2H, D2O exchangeable), 7.67 (m, 2H), 6.79 (d, 1H, J=7.8 Hz), 1.61 (s, 6H); MS (ESI) m/z 222 ([M+H]+, 87%).

reactant | 6-bromo-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | 7.8 mmol, 2 g | BrC1=CC2=C(NC(OC2(C)C)=O)C=C1 | C10H10BrNO2
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 24 mmol, 10 M, 2.4 mL | CCCCCC | C6H14
reactant | borate | 28 mmol, 6.5 mL | B([O-])([O-])[O-]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | 1.4 g, 81% | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
